US07192968B2
(1R*,2S*,4R*)-4-Carbamoyl-N1-[(5-chloroindol-2-yl)-carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine
(1R*,2S*,4R*)-N2-(tert-Butoxycarbonyl)-4-carbamoyl-N1-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine was treated with a 4N dioxane solution of hydrochloric acid and then condensed with lithium 5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine-2-carboxylate in a similar manner to Example 118 to obtain the title compound.

reactant | (1R*,2S*,4R*)-N2-(tert-Butoxycarbonyl)-4-carbamoyl-N1-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CC[C@H](C1)C(N)=O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C21H27ClN4O4
reactant | hydrochloric acid | Cl | ClH
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine-2-carboxylate | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | (1R*,2S*,4R*)-4-Carbamoyl-N1-[(5-chloroindol-2-yl)-carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | C(N)(=O)[C@H]1C[C@@H]([C@@H](CC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)NC(=O)C=1SC=2CN(CCC2N1)C | C24H27ClN6O3S
